US07288537B2
A solution of 3,4 dichlorophenol (4.12 g, 25.3 mmol) in DMF (150 ml) under argon is treated with a 60% dispersion of sodium hydride in mineral oil (40.4 mmol) and the reaction mixture stirred for 10 minutes. A solution of Methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester (7.27 g, 22.96 mmol) in DMF (50 ml) is added and the reaction mixture left to stir at 60° C. for 20 hours. The reaction mixture is partitioned between ethylacetate and water. The organic phase is washed with water (×2), dried over magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography (elution with 1:4 ethylacetate/isohexane) to afford 1-Benzhydryl-3-(3,4-dichloro-phenoxy)-azetidine. [M+H] 383.8

reactant | 3,4 dichlorophenol | 25.3 mmol, 4.12 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | sodium hydride | [H-].[Na+]
reactant | Methanesulfonic acid 1-benzhydryl-azetidin-3-yl ester | 22.96 mmol, 7.27 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OS(=O)(=O)C | C17H19NO3S
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 1-Benzhydryl-3-(3,4-dichloro-phenoxy)-azetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)OC1=CC(=C(C=C1)Cl)Cl | C22H19Cl2NO
